US08809361B2
1″-(3-Isopropyl-[1,2,4]oxadiazol-5-yl)-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
Zinc chloride (0.7 mol/L in tetrahydrofuran, 0.42 mL) is added to a solution of N-hydroxy-isobutyramidine (30 mg) and 1″-cyano-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (100 mg) in tetrahydrofuran (4 mL) and ethyl acetate (4 mL) at room temperature. The solution is heated to 60° C. and stirred at this temperature for 2 h.

reactant | N-hydroxy-isobutyramidine | 30 mg | ONC(C(C)C)=N | C4H10N2O
reactant | 1″-cyano-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | 100 mg | C(#N)N1CCC2(CC1)CC1(C2)CC=2C(=CN=C(C2)C=2CCN(CC2)S(=O)(=O)C)O1 | C21H26N4O3S
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
catalyst | Zinc chloride | 0.7 mol/L, 0.42 mL | [Cl-].[Zn+2].[Cl-]
product | 1″-(3-Isopropyl-[1,2,4]oxadiazol-5-yl)-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | C(C)(C)C1=NOC(=N1)N1CCC2(CC1)CC1(C2)CC=2C(=CN=C(C2)C=2CCN(CC2)S(=O)(=O)C)O1 | C25H33N5O4S
